US04252803
(ii)f [2-[5-[[(2-Methoxyethyl)amino]carbonyl]-1H-indol-3-yl]ethyl]carbamic acid, phenylmethyl ester (2.0 g) gave 3-(2-aminoethyl)-N-(2-methoxyethyl)-1H-indole-5-carboxamide, compound with creatinine, sulphuric acid and water (1:1:1:2) (0.8 g) as a white crystalline solid m.p. 193°-5° C. (from aqueous ethanol)

reactant | 3-(2-aminoethyl)-N-(2-methoxyethyl)-1H-indole-5-carboxamide | NCCC1=CNC2=CC=C(C=C12)C(=O)NCCOC | C14H19N3O2
reactant | creatinine | CN1CC(=O)N=C1N | C4H7N3O
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | 0.8 g | O | H2O
reactant | ethanol | C(C)O | C2H6O
product | [2-[5-[[(2-Methoxyethyl)amino]carbonyl]-1H-indol-3-yl]ethyl]carbamic acid, phenylmethyl ester | 2.0 g | COCCNC(=O)C=1C=C2C(=CNC2=CC1)CCNC(OCC1=CC=CC=C1)=O | C22H25N3O4
